US08957203B2
HATU (2.510 g, 6.60 mmol) was added to a solution of (2S,4R)-1-((2S,3R)-2-((tert-butoxycarbonyl)amino)-3,5-dimethylnon-8-enoyl)-4-hydroxypyrrolidine-2-carboxylic acid (2.269 g, 5.5 mmol), (1R,2S)-methyl 1-amino-2-vinylcyclopropanecarboxylate HCl (1.172 g, 6.60 mmol), and Hunig's Base (3.84 ml, 22.00 mmol) in DCM (20 ml) and was stirred at RT for overnight. The reaction was washed with 1N HCl (3×) and then brine and evaporated on rotovap, then purified via silica gel chromatography to get the product (1R,2S)-methyl 1-((2S,4R)-1-((2S,3R)-2-((tert-butoxycarbonyl)amino)-3,5-dimethylnon-8-enoyl)-4-hydroxypyrrolidine-2-carboxamido)-2-vinylcyclopropanecarboxylate (2.68 g, 5.00 mmol, 91% yield) as a light orange foam. MS: MS m/z 558.16 (M++23).

reactant | HATU | 6.60 mmol, 2.510 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (2S,4R)-1-((2S,3R)-2-((tert-butoxycarbonyl)amino)-3,5-dimethylnon-8-enoyl)-4-hydroxypyrrolidine-2-carboxylic acid | 5.5 mmol, 2.269 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)N1[C@@H](C[C@H](C1)O)C(=O)O)[C@@H](CC(CCC=C)C)C | C21H36N2O6
reactant | (1R,2S)-methyl 1-amino-2-vinylcyclopropanecarboxylate HCl | 6.60 mmol, 1.172 g | Cl.N[C@]1([C@@H](C1)C=C)C(=O)OC
reactant | Hunig's Base | 22.00 mmol, 3.84 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
product | (1R,2S)-methyl 1-((2S,4R)-1-((2S,3R)-2-((tert-butoxycarbonyl)amino)-3,5-dimethylnon-8-enoyl)-4-hydroxypyrrolidine-2-carboxamido)-2-vinylcyclopropanecarboxylate | 5.00 mmol, 2.68 g, 91% yield | C(C)(C)(C)OC(=O)N[C@H](C(=O)N1[C@@H](C[C@H](C1)O)C(=O)N[C@]1([C@@H](C1)C=C)C(=O)OC)[C@@H](CC(CCC=C)C)C | C28H45N3O7
